US05760035
A mixture of 1-benzoyl-4-(2-chloroethyl)piperidine (5.86 g), piperidine (11.52 ml) and IMS (100 ml) was boiled under reflux for 10 hours. The mixture was evaporated to near dryness and then dried by azeotropic distillation with toluene. The residue was dissolved in dichloromethane, washed with 2M sodium hydroxide solution and then brine. The separated organic layer was extracted with 2M hydrochloric acid and the combined acidic layers were basified with 2M sodium hydroxide solution and then extracted with dichloromethane to give 1-benzoyl-4-(2-piperidinoethyl)piperidine as an oil.

reactant | 1-benzoyl-4-(2-chloroethyl)piperidine | 5.86 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCCl | C14H18ClNO
reactant | piperidine | 11.52 ml | N1CCCCC1 | C5H11N
product | 1-benzoyl-4-(2-piperidinoethyl)piperidine | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCN1CCCCC1 | C19H28N2O
